US07994179B2
Intermediate 9-6: tert-Butyl [(1S)-1-carbamoylpropyl]carbamate
To a solution of (2S)-2-[(tert-butoxycarbonyl)amino]butanoic acid (1.01 g, 4.99 mmol) in DMF (5 mL) at −20° C. was added NMM (1.10 mL, 9.99 mmol) and isobutyl chloroformate (1.30 mL, 9.99 mmol). The reaction was stirred for 10 min at −20° C. The precipitate was removed by filtration. 26% NH4OH (aq) solution (0.39 mL, 9.99 mmol) was added and the reaction was stirred at −20° C. for 3 h. The volume was reduced under vacuum and hexane was added. A white precipitate was formed after a few minutes. The precipitate was collected in a filter and washed with additional hexane. The precipitate was recrystallised from EtOAc and hexane to give the title compound (0.811 g, 80%) as white solid.

reactant | (2S)-2-[(tert-butoxycarbonyl)amino]butanoic acid | 4.99 mmol, 1.01 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC | C9H17NO4
reactant | NMM | 9.99 mmol, 1.10 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 9.99 mmol, 1.30 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | NH4OH | [NH4+].[OH-]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | tert-Butyl [(1S)-1-carbamoylpropyl]carbamate | 0.811 g, 80% | C(N)(=O)[C@H](CC)NC(OC(C)(C)C)=O | C9H18N2O3
